US06878718B2
Ethyl (2S)-2-amino-3-hydroxypropanoate hydrochloride
A mixture of (2S)-2-amino-3-hydroxypropanoate (25 g, 238 mmol) and acetyl chloride (34 ml, 476 mmol) in absolute ethanol (250 ml) was stirred at 50° for 18 hr. The volatiles were removed in vacuo until the volume was reduced to ˜100 ml. Upon cooling the resultant precipitate was collected, washed with ether and hexane to give the title compound as a white powder (26.3 g, 65%). δH NMR (DMSO d6) 8.47 (3H, br s), 5.58 (1H, dd), 4.20 (2H, q), 4.08 (1H, t), 3.81 (2H, dd), 1.23 (3H, t).

reactant | (2S)-2-amino-3-hydroxypropanoate | 238 mmol, 25 g | N[C@H](C(=O)[O-])CO
reactant | acetyl chloride | 476 mmol, 34 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl (2S)-2-amino-3-hydroxypropanoate hydrochloride | 26.3 g, 65% | Cl.N[C@H](C(=O)OCC)CO | InChI=1S/C5H11NO3.ClH/c1-2-9-5(8)4(6)3-7;/h4,7H,2-3,6H2,1H3;1H/t4-;/m0./s1
